US06716984B2
In the drybox, 52.0 mg (0.184 mmol) of (Me2CH)PH(O)(2,4-(MeO)2C6H3) from Example 34, 34.0 mg (0.151 mmol) of Pd(OAc)2 and 14.0 ml of toluene were loaded into a reactor (20 ml) equipped with a magnetic stir bar. The resulting mixture was stirred at room temperature for 1 h. Next, 576.0 mg (6.0 mmol) of NaOtBu, 816.0 mg (4.0 mmol) of PhI and 360 mg (4.0 mmol) of HS-t-Bu were added into the mixture above, The resulting mixture was refluxed for 3 days. The reaction mixture was then cooled to room temperature, chromatographed on silicon gel using ethyl acetate/hexane (5% volume ratio) as eluant. The eluate was concentrated by rotary evaporation followed by high vacuum to yield 190 mg (29% yield) of t-butyl phenyl sulfide. It was >95% pure by 1H NMR and GC/MS. 1H NMR (500 MHz, CDCl3): δ7.43-7.42 (m, 2H), 7.22-7.19 (m, 3H), 1.17 (s, 9H) ppm. 13C NMR (125 MHz, CDCl3): δ137.4, 132.7, 128.5, 128.3, 30.9 ppm.

reactant | NaOtBu | 6.0 mmol, 576.0 mg | CC(C)(C)[O-].[Na+]
reactant | PhI | 4.0 mmol, 816.0 mg | C1(=CC=CC=C1)I | C6H5I
reactant | HS-t-Bu | 4.0 mmol, 360 mg | SC(C)(C)C | C4H10S
catalyst | Pd(OAc)2 | 0.151 mmol, 34.0 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | 14.0 ml | C1(=CC=CC=C1)C | C7H8
product | t-butyl phenyl sulfide | 190 mg, 29% yield | C1(=CC=CC=C1)SC(C)(C)C | C10H14S
